US07045631B2
N-[4-(2,2-Dicyanovinyl)phenyl]acetamide
311.4 g (1.9 mol) of 4-acetaminobenzaldehyde and 131 g (1.99 mol) of malonitrile are initially introduced in 1 330 ml of ethanol, and 6 ml of piperidine are then added. The mixture is stirred under reflux for 30 minutes. After cooling down to room temperature, the crystals are filtered off with suction and dried.

reactant | 4-acetaminobenzaldehyde | 1.9 mol, 311.4 g | N(C(=O)C)C1=CC=C(C=O)C=C1 | C9H9NO2
reactant | malonitrile | 1.99 mol, 131 g | C(C(O)CC#N)#N | C4H4N2O
reactant | piperidine | 6 ml | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | N-[4-(2,2-Dicyanovinyl)phenyl]acetamide | C(#N)C(=CC1=CC=C(C=C1)NC(C)=O)C#N | C12H9N3O
